US04521606
1-Acetylindoline (16.1 g, 0.1 mol) and chloroacetylchloride (14.0 g, 9.6 mL, 0.12 mol) were added to carbon disulfide (200 mL) and heated to 40° C. Aluminium trichloride (42 g, 0.315 mol) was added portionwise to the mechanically stirred solution. After the addition was complete, the mixture was refluxed for 2 hours. The carbon disulfide was decanted and the remaining traces of carbon disulfide were evaporated using a stream of nitrogen while stirring the mixture (1 hour). Ice was added (exothermic!) to the dark green slurry with stirring under nitrogen. The ice mixture was stirred until a white homogenous mixture was obtained. The solid (32 g) was collected, washed with water, dried in air and reacted as such with dibenzylamine (60 g, 0.31 mol) at reflux temperature in dry acetonitrile (650 mL) overnight. The resulting mixture was cooled (10° C.) and dichloromethane (650 mL) was added. The precipitate was filtered, and the filtrate was concentrated to dryness. The residue was triturated with diethyl ether to afford a yellow solid (34.24 g) of 1-(1-acetyl-2,3-dihydro-1H-indol-5-yl)-2-[bis(phenylmethyl)amino]-ethanone: mp 130° C. (crystallized from ethyl acetate) and NMR (CDCl3) δ 2.2(s, 3H), 3.1(t, 2H), 3.7(s, 6H), 4.05(t, 2H), 7.4(m, 13H).

reactant | 1-Acetylindoline | 0.1 mol, 16.1 g | C(C)(=O)N1CCC2=CC=CC=C12 | C10H11NO
reactant | chloroacetylchloride | 0.12 mol, 9.6 mL, 14.0 g | ClCC(=O)Cl | C2H2Cl2O
reactant | Aluminium trichloride | 0.315 mol, 42 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | dibenzylamine | 0.31 mol, 60 g | C(C1=CC=CC=C1)NCC1=CC=CC=C1 | C14H15N
solvent | acetonitrile | 650 mL | C(C)#N | C2H3N
solvent | dichloromethane | 650 mL | ClCCl | CH2Cl2
solvent | carbon disulfide | 200 mL | C(=S)=S | CS2
product | 1-(1-acetyl-2,3-dihydro-1H-indol-5-yl)-2-[bis(phenylmethyl)amino]-ethanone | 34.24 g | C(C)(=O)N1CCC2=CC(=CC=C12)C(CN(CC1=CC=CC=C1)CC1=CC=CC=C1)=O | C26H26N2O2
